US05273969
B. (E)-6,10-Dimethyl-5,9-undecadien-1-ol
A solution of 198 mL (58.0 mmol) of 0.29M Example 36 part B Grignard reagent in THF and 48 mL (275.9 mmol) of hexamethyl phosphoric anhydride (HMPA) at 0° C. under argon was treated dropwise with 2.0 g (11.6 mmol) of Part A geranyl chloride in 20 mL of THF. After addition, the reaction was allowed to warm to room temperature for 2 hours, at which point the reaction was diluted with 1:1 hexane/ether and quenched with 1N HCl solution. The organic layer was washed with 1N HCl followed by water, saturated sodium bicarbonate, brine, dried over MgSO4 and evaporated to provide 3.59 g of crude oil. Flash chromatography was performed on 360 g of silica gel packed and loaded with 10:1 hexane/EtOAc and eluted with 7:1 hexane/EtOAc collecting 30 mL fractions. Fractions 32 to 49 were combined and evaporated to provide 1.68 g (74%) of title compound in the form of an oil.

reactant | geranyl chloride | C(\C=C(/C)\CCC=C(C)C)Cl | C10H17Cl
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | hexane ether | CCCCCC.CCOCC
product | (E)-6,10-Dimethyl-5,9-undecadien-1-ol | 1.68 g, 74% | C\C(=C/CCCCO)\CCC=C(C)C | C13H24O
